US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-2-(2-hydroxypropylthio)acetamide
Following a procedure similar to that described in Example 1, but using N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-2-chloroacetamide (prepared as described in Preparation 1) and 1-mercapto-2-propanol as starting materials, in relative proportions similar to those used in that Example, the title compound was obtained in an 89% yield.

reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-2-chloroacetamide | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCl)=O | C17H24ClN3O2
reactant | 1-mercapto-2-propanol | SCC(C)O | C3H8OS
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-2-(2-hydroxypropylthio)acetamide | 89% yield | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CSCC(C)O)=O | C20H31N3O3S
